US07576215B2
[4-((1R)-1-{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}ETHYL)PHENYL]ACETIC ACID
The title compound was prepared using the procedure of example 69 using 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol as the phenol and [4-(1-Hydroxy-ethyl)-phenyl]-acetic acid ethyl ester as the alcohol and isolated using chiral column chromatography. MS (ESI) m/z 540.

reactant | 3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | [4-(1-Hydroxy-ethyl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)C(C)O)=O | C12H16O3
product | [4-((1R)-1-{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}ETHYL)PHENYL]ACETIC ACID | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(O[C@H](C)C2=CC=C(C=C2)CC(=O)O)C=CC1)C(F)(F)F | C33H26F3NO3
